US06131226
A. Methyl 5-phenylthio-3-oxo-pentanoate
To a suspension of NaH (60%) (815 mg, 20.39 mmol) in THF-HMPA (20 ml, 5 ml) was added methylacetoacetate (2.0 g, 18.5 mmol) in THF (5 ml) at 0° C. The mixture was stirred for 10 min. at 0° C. under nitrogen atmosphere. BuLi (12.3 ml, 20.39 mmol) was dropwise added and the red mixture was stirred for 15 min. at 0° C. Then a solution of chlorothioanisole (2.7 ml, 20.39 mmol) in THF (5 ml) was added to the mixture at 0° C. The mixture was stirred for 1 h at -5° C. The mixture was quenched with H2O, then extracted with AcOEt (100 ml×2). AcOEt layer was washed with H2O (10 ml×2) and brine (10 ml), then dried over MgSO4 and evaporated. The residue was purified by a silica gel column chromatography (150 g, hexane :AcOEt=6:1) to give a colorless oil (1.0 g, 22.7%).

reactant | NaH | 20.39 mmol, 815 mg | [H-].[Na+]
reactant | methylacetoacetate | 18.5 mmol, 2.0 g | COC(CC(=O)C)=O | C5H8O3
reactant | BuLi | 20.39 mmol, 12.3 ml | [Li]CCCC
reactant | chlorothioanisole | 20.39 mmol, 2.7 ml | ClC1=C(C=CC=C1)SC | C7H7ClS
solvent | THF HMPA | 20 ml | C1CCOC1.CN(C)P(=O)(N(C)C)N(C)C
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 5-phenylthio-3-oxo-pentanoate | 1.0 g, 22.7% | C1(=CC=CC=C1)SCCC(CC(=O)OC)=O | C12H14O3S
